US07348359B2
F. 3-(2-Ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridine-6-carbaldehyde
Tetrapropylammonium perruthenate (24 mg, 0.07 mmol) and 4-methylmorpholine N-oxide (239.3 mg, 2.04 mmol) were added to a solution of [3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-methanol (480 mg, 1.36 mmol) in dichloromethane under an atmosphere of nitrogen. After 3 h, the reaction was filtered through celite and evaporated. The residue used without further purification.

reactant | 4-methylmorpholine N-oxide | 2.04 mmol, 239.3 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | [3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-methanol | 1.36 mmol, 480 mg | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CN=C2N1C=C(C=C2)CO | C22H28N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Tetrapropylammonium perruthenate | 0.07 mmol, 24 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 3-(2-Ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridine-6-carbaldehyde | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CN=C2N1C=C(C=C2)C=O | C22H26N2O2
